US09278944B2
To a solution of 1-(2-naphthyl)ethanol (344 mg), N-cyclopropyl-2-nitrobenzenesulfonamide (581 mg) and triphenylphosphine (787 mg) in tetrahydrofuran (10 mL) was added dropwise diisopropyl azodicarboxylate (590 μL) under ice-cooling, and the mixture was stirred at room temperature for 3 hours. The reaction solution was concentrated, and the resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=4/1→1/1), and then triturated with diethyl ether-n-hexane (1:1) to give N-cyclopropyl-N-[1-(2-naphthyl)ethyl]-2-nitrobenzenesulfonamide j[REx(1-1)] (499 mg) as a colorless powder.

reactant | 1-(2-naphthyl)ethanol | 344 mg | C1=C(C=CC2=CC=CC=C12)C(C)O | C12H12O
reactant | N-cyclopropyl-2-nitrobenzenesulfonamide | 581 mg | C1(CC1)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C9H10N2O4S
reactant | triphenylphosphine | 787 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 590 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-cyclopropyl-N-[1-(2-naphthyl)ethyl]-2-nitrobenzenesulfonamide | 499 mg | C1(CC1)N(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C(C)C1=CC2=CC=CC=C2C=C1 | C21H20N2O4S
